US03994890
1-N-Monomethylcarbamoylethyl-3-phenylindazole (m.p. 111°-112° C) (50 g) was dissolved in anhydrous tetrahydrofuran (40 ml) and to the solution was added lithium aluminum hydride (1.5 g) under cooling with ice followed by heating under reflux for 20 min. while stirring. Aqueous ether and aqueous sodium hydroxide solution were added to the resulting reaction mixture to separate an organic layer. 10% Hydrochloric acid was added to the organic layer to separate water layer. The water layer was alkalized with the addition of an aqueous sodium hydroxide solution, extracted with benzene, and the extract was washed with water, dried over sodium sulfate and concentrated under reduced pressure to obtain 1.2 g of 1-N-monomethylaminopropyl-3-phenylindazole as an oily product. The product was converted to its oxalate by a conventional way and then recrystallized from methanol to obtain crystals having a melting point between 197°-198° C (decomposition).

reactant | 1-N-Monomethylcarbamoylethyl-3-phenylindazole | 50 g | CNC(=O)CCN1N=C(C2=CC=CC=C12)C1=CC=CC=C1 | C17H17N3O
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-N-monomethylaminopropyl-3-phenylindazole | 1.2 g | CNCCCN1N=C(C2=CC=CC=C12)C1=CC=CC=C1 | C17H19N3
